US06369075B1
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid amide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (300 mg, 0.69 mmol) was combined with ammonium chloride (55 mg, 1.04 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (159 mg, 0.83 mmol), 1-hydroxybenzotriazole (103 mg, 0.76 mmol), and triethylamine (0.38 ml, 2.76 mmol) in 5 ml of dichloromethane. After stirring overnight at ambient temperature, the reaction mixture was concentrated, the residue was suspended in water, and the solid was collected by vacuum filtration to afford 219 mg of the title compound as an off-white solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.69 mmol, 300 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | ammonium chloride | 1.04 mmol, 55 mg | [Cl-].[NH4+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.83 mmol, 159 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.76 mmol, 103 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.76 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid amide | 219 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)N)(F)F | C24H16F3N3O2
